US08222248B2
To a solution of 4-amino-N-(3-chloro-phenyl)-3-nitrobenzamide (590 mg) in EtOAc (200 mL) was added 10% Pd/C (100 mg). The reaction mixture was stirred overnight under H+ balloon. The reaction mixture was filtered through a Celite pad, washed with EtOAc. The solution was concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=20:80 to 100:0) to give of 3,4-diamino-N-(3-chloro-phenyl)-benzamide as a white solid: MS (m/z) 262 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 9.84 (s, 1H), 7.95 (t, 1H), 7.67 (d, 1H), 7.32 (t, 1H), 7.12 (m, 2H), 7.07 (dd, 1H), 6.54 (d, 1H), 5.12 (s, 2H), 4.63 (s, 2H).

reactant | 4-amino-N-(3-chloro-phenyl)-3-nitrobenzamide | 590 mg | NC1=C(C=C(C(=O)NC2=CC(=CC=C2)Cl)C=C1)[N+](=O)[O-] | C13H10ClN3O3
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3,4-diamino-N-(3-chloro-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC1N | C13H12ClN3O
